US04339603
The 1-(2-methoxyethyl)-4-phenyl-4-imidazolin-2-one (6.5 g) so obtained is next admixed with 10% palladium on carbon (0.7 g) in ethanol (50 ml). The mixture is thereafter hydrogenated at 50 psi at room temperature for four hours and the catalyst is filtered. Resultant filtrate is finally concentrated to yield racemic 1-(2-methoxyethyl)-4-phenyl-2-imidazolidone (6.0 g), [α]D20 =-0.2(c=1 in CHCl3).

reactant | 1-(2-methoxyethyl)-4-phenyl-4-imidazolin-2-one | 6.5 g | COCCN1C(NC(=C1)C1=CC=CC=C1)=O | C12H14N2O2
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | racemic 1-(2-methoxyethyl)-4-phenyl-2-imidazolidone | 6.0 g | COCCN1C(NC(C1)C1=CC=CC=C1)=O | C12H16N2O2
